US07504408B2
7-{3-[bis(2-methoxyethyl)amino]propoxy}-N-[5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxyquinazolin-4-amine
This was prepared using the method described in example 13 using N-[5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-6-methoxyquinazolin-4-amine (200 mg, 0.40 mmol) and bis(2-methoxyethyl)amine (264 mg, 1.98 mmol) in 2-methoxyethanol (4 ml). The crude product was purified by column chromatography on silica using increasing concentrations of methanol in dichloromethane as eluent. There was thus obtained the title compound (147 mg, 66%) as a pale brown solid; NMR Spectrum:(DMSOd6) 1.91 (quintet, 2H), 2.65 (m, 6H), 2.72 (t, 2), 3.21 (s, 6H), 3.30 (s, 3H), 3.38 (t, 4H), 3.53 (t, 2H), 3.94 (s, 3H), 4.19 (t, 2H), 6.14 (s, 2H), 7.07 (s, 1H), 7.17 (s, 1H), 7.81 (s, 1H), 8.32 (s, 1H), 9.49 (s, 1H); Mass Spectrum: M+H+ 601/603.

reactant | N-[5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-6-methoxyquinazolin-4-amine | 0.40 mmol, 200 mg | ClC1=C(C2=C(OCO2)C(=C1)C#CCCOC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCCl | C24H23Cl2N3O5
reactant | bis(2-methoxyethyl)amine | 1.98 mmol, 264 mg | COCCNCCOC | C6H15NO2
solvent | 2-methoxyethanol | 4 ml | COCCO | C3H8O2
product | 7-{3-[bis(2-methoxyethyl)amino]propoxy}-N-[5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxyquinazolin-4-amine | 147 mg, 66% | COCCN(CCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=2OCOC21)C#CCCOC)Cl)OC)CCOC | C30H37ClN4O7
